US09085511B2
1,8-Bis(2′-methyl-4′-methoxyphenyl)naphthalene (4)
A solution of 1,8-diiodonaphthalene, (1.70 g, 4.5 mmol), 2-methyl-4-methoxyphenylboronic acid, 2, (2.20 g, 13.4 mmol), Pd(PPh3)4 (0.78 g, 0.67 mmol) and K3PO4, (4.30 g, 20.1 mmol) in 50 mL toluene was stirred at 100° C. for 18 hours. The resulting mixture was allowed to come to room temperature, quenched with water and extracted with CH2Cl2. The combined organic layers were dried over MgSO4 and concentrated in vacuo. Purification by flash chromatography on silica gel (CH2Cl2:hexanes 2:3) afforded 1.65 g (4.5 mmol, >99%) of off-white crystals containing syn- and anti-isomers of 7 in a ratio of 1:3.

reactant | 1,8-diiodonaphthalene | 4.5 mmol, 1.70 g | IC1=CC=CC2=CC=CC(=C12)I | C10H6I2
reactant | 2-methyl-4-methoxyphenylboronic acid | CC1=C(C=CC(=C1)OC)B(O)O | C8H11BO3
reactant | K3PO4 | 20.1 mmol, 4.30 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 13.4 mmol, 2.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,8-Bis(2′-methyl-4′-methoxyphenyl)naphthalene | 4.5 mmol, 1.65 g, >99% | CC1=C(C=CC(=C1)OC)C1=CC=CC2=CC=CC(=C12)C1=C(C=C(C=C1)OC)C | C26H24O2
